US05741926
Methyl 2-((2-((2-Bromophenyl)amino)acetyl)amino)benzoate (Compound CI)
A solution of methyl 2-((bromoacetyl)amino)benzoate (2.0 g, 7.35 mmol) and 2-bromoaniline (3.16 g, 18.4 mmol) in anhydrous DMF (30 mL) was heated to 90°-100° C. overnight with stirring under N2. The solution was cooled, poured into 500 mL of ice-water, and then extracted with 3×50 mL of ethyl acetate. The layers were separated and the organic layer was dried (MgSO4), filtered, and then concentrated. Purification by chromatography, eluting with hexane-ethyl acetate (3:1), afforded 0.81 g (30%) of the title compound, mp 89°-91° C.: 1H NMR (DMSO-d6) δ11.19 (s, 1H), 8.52 (dd, J=8.4, J=0.8, 1H), 7.90 (dd, J=8.0, J=1.6, 1H), 7.62 (ddd, J=8.8, J=7.6, J=1.6, 1H), 7.47 (dd, J=8.0, J=1.6, 1H), 7.20-7.14 (m, 2H), 6.60 (ddd, J=8.4, J=8.0, J=1.2, 1H), 6.53 (dd, J=8.4, J=1.6, 1H), 6.06 (bt, J=5.6, 1H), 4.00 (d, J=5.6, 2H), 3.73 (s, 3H); 13C NMR (DMSO-d6) δ169.70, 167.01, 144.53, 139.32, 134.16, 132.36, 130.68, 128.67, 123.21, 120.40, 118.35, 116.66, 111.51, 109.04, 52.26, 48.47; MS (El, m/z) 363 (M+). Anal. Calcd for C16H15N2O3Br: C, 52.91; H, 4.16; N, 7.71. Found: C, 52.22; H, 4.05; N, 7.40.

reactant | methyl 2-((bromoacetyl)amino)benzoate | 7.35 mmol, 2.0 g | BrCC(=O)NC1=C(C(=O)OC)C=CC=C1 | C10H10BrNO3
reactant | 2-bromoaniline | 18.4 mmol, 3.16 g | BrC1=C(N)C=CC=C1 | C6H6BrN
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | Methyl 2-((2-((2-Bromophenyl)amino)acetyl)amino)benzoate | 0.81 g, 30% | BrC1=C(C=CC=C1)NCC(=O)NC1=C(C(=O)OC)C=CC=C1 | C16H15BrN2O3
